US07435823B2
Step (a) Preparation methyl-6-(trifluoromethylsulfonyloxy)-1-napthoate
To a mixture of methyl-6-hydroxy-1-napthoate (1.5 g, 7.4 mmol) in dry CH2Cl2 (100 mL) at −78° C. was added diisoproylethylamine (3.8 mL, 21 mmol, Aldrich) and trifluoromethanesulfonic anhydride (1.4 mL, 8.1 mmol). The reaction was maintained at this temperature for 1 h at which point it was quenched by the addition of sat'd NaHCO3 (50 mL). The mixture was warmed to ambient temperature and the aqueous layer was extracted with CH2Cl2 (3×50 mL). The combined organic layers were washed with brine, dried over Na2SO4 and concentrated in vacuo. The resulting brown residue was purified by silica gel column chromatography (10-30% acetone in hexanes) to give the title compound as a yellow solid. MS (ESI, pos. ion) m/z: 335.3 (M+1). Mass Calc'd for C13H9F3O5S: 334.27.

reactant | methyl-6-hydroxy-1-napthoate | 7.4 mmol, 1.5 g | COC(=O)C1=CC=CC2=CC(=CC=C12)O | C12H10O3
reactant | diisoproylethylamine | 21 mmol, 3.8 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | trifluoromethanesulfonic anhydride | 8.1 mmol, 1.4 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | methyl-6-(trifluoromethylsulfonyloxy)-1-napthoate | COC(=O)C1=CC=CC2=CC(=CC=C12)OS(=O)(=O)C(F)(F)F | C13H9F3O5S
